US06329342B1
A steady stream of anhydrous hydrochloric acid was bubbled subsurface into a solution of 2-naphthylacetic acid (251.38 grams, 1.35 mol) dissolved in ethanol (1760 mL) over a period of 10 minutes. The resulting solution was stirred at ambient temperature until complete as determined by hplc (2 hours). The reaction mixture was concentrated to dryness. The resulting oil was dissolved in ethyl acetate (200 mL) and filtered through silica gel (300 grams) eluting the product with ethyl acetate (1400 mL). The filtrate was concentrated to give 286.33 grams (99%) of ethyl 2-(2-naphthyl)acetate as a colorless oil. MS (FIA) m/z 215.3 [(M+H)+]. 1H nmr (DMSO-d6): δ1.15-1.24 (t, 3H), 3.81-3.86 (d, 2H), 4.07-4.15 (q, 2H), 7.41-7.55 (m, 3H), 7.80-7.92 (m, 4H).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-naphthylacetic acid | 1.35 mol, 251.38 grams | C1=C(C=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | ethanol | 1760 mL | C(C)O | C2H6O
product | ethyl 2-(2-naphthyl)acetate | 286.33 grams, 99% | C1=C(C=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
